*-- pdngen: spice deck generated for chip 'chiplet7' PDN
*-- die chiplet7:  W/H: 0.002/0.002


.subckt chiplet7
+nd_pad_port_0_1
+nd_pad_port_0_3
+nd_pad_port_1_0
+nd_pad_port_1_2
+nd_pad_port_2_1
+nd_pad_port_2_3
+nd_pad_port_3_0
+nd_pad_port_3_2
*-- p/g port #: 8/8
+nd_1_0_7000_1000

*-- layer 1: net: 0 [X] VDD net from layer 1-2
rd_1_2_0_0_0 nd_1_0_1000_1000 nd_1_0_3000_1000 0.016324
rd_1_2_0_0_1 nd_1_0_3000_1000 nd_1_0_5000_1000 0.016324
rd_1_2_0_0_2 nd_1_0_5000_1000 nd_1_0_7000_1000 0.016324
rd_1_2_0_0_3 nd_1_0_7000_1000 nd_1_0_9000_1000 0.016324
rd_1_2_0_1_0 nd_1_0_1000_3000 nd_1_0_3000_3000 0.016324
rd_1_2_0_1_1 nd_1_0_3000_3000 nd_1_0_5000_3000 0.016324
rd_1_2_0_1_2 nd_1_0_5000_3000 nd_1_0_7000_3000 0.016324
rd_1_2_0_1_3 nd_1_0_7000_3000 nd_1_0_9000_3000 0.016324
rd_1_2_0_2_0 nd_1_0_1000_5000 nd_1_0_3000_5000 0.016324
rd_1_2_0_2_1 nd_1_0_3000_5000 nd_1_0_5000_5000 0.016324
rd_1_2_0_2_2 nd_1_0_5000_5000 nd_1_0_7000_5000 0.016324
rd_1_2_0_2_3 nd_1_0_7000_5000 nd_1_0_9000_5000 0.016324
rd_1_2_0_3_0 nd_1_0_1000_7000 nd_1_0_3000_7000 0.016324
rd_1_2_0_3_1 nd_1_0_3000_7000 nd_1_0_5000_7000 0.016324
rd_1_2_0_3_2 nd_1_0_5000_7000 nd_1_0_7000_7000 0.016324
rd_1_2_0_3_3 nd_1_0_7000_7000 nd_1_0_9000_7000 0.016324
rd_1_2_0_4_0 nd_1_0_1000_9000 nd_1_0_3000_9000 0.016324
rd_1_2_0_4_1 nd_1_0_3000_9000 nd_1_0_5000_9000 0.016324
rd_1_2_0_4_2 nd_1_0_5000_9000 nd_1_0_7000_9000 0.016324
rd_1_2_0_4_3 nd_1_0_7000_9000 nd_1_0_9000_9000 0.016324
*-- layer 1: net: 0 [X] VSS net from layer 1-2
*-- layer 2: net: 0 [Y] VDD net from layer 2-1
rd_2_1_0_0_0 nd_2_0_1000_1000 nd_2_0_1000_3000 0.016324
rd_2_1_0_0_1 nd_2_0_1000_3000 nd_2_0_1000_5000 0.016324
rd_2_1_0_0_2 nd_2_0_1000_5000 nd_2_0_1000_7000 0.016324
rd_2_1_0_0_3 nd_2_0_1000_7000 nd_2_0_1000_9000 0.016324
rd_2_1_0_1_0 nd_2_0_3000_1000 nd_2_0_3000_3000 0.016324
rd_2_1_0_1_1 nd_2_0_3000_3000 nd_2_0_3000_5000 0.016324
rd_2_1_0_1_2 nd_2_0_3000_5000 nd_2_0_3000_7000 0.016324
rd_2_1_0_1_3 nd_2_0_3000_7000 nd_2_0_3000_9000 0.016324
rd_2_1_0_2_0 nd_2_0_5000_1000 nd_2_0_5000_3000 0.016324
rd_2_1_0_2_1 nd_2_0_5000_3000 nd_2_0_5000_5000 0.016324
rd_2_1_0_2_2 nd_2_0_5000_5000 nd_2_0_5000_7000 0.016324
rd_2_1_0_2_3 nd_2_0_5000_7000 nd_2_0_5000_9000 0.016324
rd_2_1_0_3_0 nd_2_0_7000_1000 nd_2_0_7000_3000 0.016324
rd_2_1_0_3_1 nd_2_0_7000_3000 nd_2_0_7000_5000 0.016324
rd_2_1_0_3_2 nd_2_0_7000_5000 nd_2_0_7000_7000 0.016324
rd_2_1_0_3_3 nd_2_0_7000_7000 nd_2_0_7000_9000 0.016324
rd_2_1_0_4_0 nd_2_0_9000_1000 nd_2_0_9000_3000 0.016324
rd_2_1_0_4_1 nd_2_0_9000_3000 nd_2_0_9000_5000 0.016324
rd_2_1_0_4_2 nd_2_0_9000_5000 nd_2_0_9000_7000 0.016324
rd_2_1_0_4_3 nd_2_0_9000_7000 nd_2_0_9000_9000 0.016324
*-- layer 2: net: 0 [Y] VSS net from layer 2-1
*-- via layer 1-2: net: 0 VDD net
rvd_1_0_0_0 nd_1_0_1000_1000 nd_2_0_1000_1000 0.005
rvd_1_0_0_1 nd_1_0_3000_1000 nd_2_0_3000_1000 0.005
rvd_1_0_0_2 nd_1_0_5000_1000 nd_2_0_5000_1000 0.005
rvd_1_0_0_3 nd_1_0_7000_1000 nd_2_0_7000_1000 0.005
rvd_1_0_0_4 nd_1_0_9000_1000 nd_2_0_9000_1000 0.005
rvd_1_0_1_0 nd_1_0_1000_3000 nd_2_0_1000_3000 0.005
rvd_1_0_1_1 nd_1_0_3000_3000 nd_2_0_3000_3000 0.005
rvd_1_0_1_2 nd_1_0_5000_3000 nd_2_0_5000_3000 0.005
rvd_1_0_1_3 nd_1_0_7000_3000 nd_2_0_7000_3000 0.005
rvd_1_0_1_4 nd_1_0_9000_3000 nd_2_0_9000_3000 0.005
rvd_1_0_2_0 nd_1_0_1000_5000 nd_2_0_1000_5000 0.005
rvd_1_0_2_1 nd_1_0_3000_5000 nd_2_0_3000_5000 0.005
rvd_1_0_2_2 nd_1_0_5000_5000 nd_2_0_5000_5000 0.005
rvd_1_0_2_3 nd_1_0_7000_5000 nd_2_0_7000_5000 0.005
rvd_1_0_2_4 nd_1_0_9000_5000 nd_2_0_9000_5000 0.005
rvd_1_0_3_0 nd_1_0_1000_7000 nd_2_0_1000_7000 0.005
rvd_1_0_3_1 nd_1_0_3000_7000 nd_2_0_3000_7000 0.005
rvd_1_0_3_2 nd_1_0_5000_7000 nd_2_0_5000_7000 0.005
rvd_1_0_3_3 nd_1_0_7000_7000 nd_2_0_7000_7000 0.005
rvd_1_0_3_4 nd_1_0_9000_7000 nd_2_0_9000_7000 0.005
rvd_1_0_4_0 nd_1_0_1000_9000 nd_2_0_1000_9000 0.005
rvd_1_0_4_1 nd_1_0_3000_9000 nd_2_0_3000_9000 0.005
rvd_1_0_4_2 nd_1_0_5000_9000 nd_2_0_5000_9000 0.005
rvd_1_0_4_3 nd_1_0_7000_9000 nd_2_0_7000_9000 0.005
rvd_1_0_4_4 nd_1_0_9000_9000 nd_2_0_9000_9000 0.005
*-- via layer 1-2: net: 0 VSS net
id_0_0_0_0 nd_1_0_1000_1000 0 pwl(0 0.0 2.017e-02ns 0.0  7.017e-02ns 8.4e-03  2.832e-01ns 8.4e-03  3.332e-01ns 0.0)
rdesr_0_0_0_0 nd_1_0_1000_1000 nd_1_0_1000_1000_ci 40.694
cd_0_0_0_0 nd_1_0_1000_1000_ci 0 1.21823e-12
id_0_0_0_1 nd_1_0_3000_1000 0 pwl(0 0.0 3.566e-02ns 0.0  8.566e-02ns 6.0e-03  7.421e-01ns 6.0e-03  7.921e-01ns 0.0)
rdesr_0_0_0_1 nd_1_0_3000_1000 nd_1_0_3000_1000_ci 21.2815
cd_0_0_0_1 nd_1_0_3000_1000_ci 0 3.84732e-12
id_0_0_0_2 nd_1_0_5000_1000 0 pwl(0 0.0 7.583e-01ns 0.0  8.083e-01ns 1.2e-02  8.877e-01ns 1.2e-02  9.377e-01ns 0.0)
rdesr_0_0_0_2 nd_1_0_5000_1000 nd_1_0_5000_1000_ci 55.9844
cd_0_0_0_2 nd_1_0_5000_1000_ci 0 1.24533e-12
id_0_0_0_3 nd_1_0_7000_1000 0 pwl(0 0.0 1.299e-01ns 0.0  1.799e-01ns 7.0e-03  4.602e-01ns 7.0e-03  5.102e-01ns 0.0)
rdesr_0_0_0_3 nd_1_0_7000_1000 nd_1_0_7000_1000_ci 38.9408
cd_0_0_0_3 nd_1_0_7000_1000_ci 0 7.66943e-13
id_0_0_0_4 nd_1_0_9000_1000 0 pwl(0 0.0 5.281e-01ns 0.0  5.781e-01ns 1.2e-02  8.752e-01ns 1.2e-02  9.252e-01ns 0.0)
rdesr_0_0_0_4 nd_1_0_9000_1000 nd_1_0_9000_1000_ci 20.901
cd_0_0_0_4 nd_1_0_9000_1000_ci 0 5.69627e-12
id_0_0_0_5 nd_1_0_1000_3000 0 pwl(0 0.0 2.075e-02ns 0.0  7.075e-02ns 9.0e-03  7.273e-01ns 9.0e-03  7.773e-01ns 0.0)
rdesr_0_0_0_5 nd_1_0_1000_3000 nd_1_0_1000_3000_ci 14.1924
cd_0_0_0_5 nd_1_0_1000_3000_ci 0 7.53992e-12
id_0_0_0_6 nd_1_0_3000_3000 0 pwl(0 0.0 4.233e-01ns 0.0  4.733e-01ns 2.7e-02  7.319e-01ns 2.7e-02  7.819e-01ns 0.0)
rdesr_0_0_0_6 nd_1_0_3000_3000 nd_1_0_3000_3000_ci 10.8022
cd_0_0_0_6 nd_1_0_3000_3000_ci 0 8.86777e-12
id_0_0_0_7 nd_1_0_5000_3000 0 pwl(0 0.0 6.935e-01ns 0.0  7.435e-01ns 2.9e-02  8.446e-01ns 2.9e-02  8.946e-01ns 0.0)
rdesr_0_0_0_7 nd_1_0_5000_3000 nd_1_0_5000_3000_ci 20.3628
cd_0_0_0_7 nd_1_0_5000_3000_ci 0 2.71525e-12
id_0_0_0_8 nd_1_0_7000_3000 0 pwl(0 0.0 7.708e-01ns 0.0  8.208e-01ns 3.8e-02  9.407e-01ns 3.8e-02  9.907e-01ns 0.0)
rdesr_0_0_0_8 nd_1_0_7000_3000 nd_1_0_7000_3000_ci 14.0464
cd_0_0_0_8 nd_1_0_7000_3000_ci 0 1.02269e-11
id_0_0_0_9 nd_1_0_9000_3000 0 pwl(0 0.0 5.883e-01ns 0.0  6.383e-01ns 5.1e-02  7.534e-01ns 5.1e-02  8.034e-01ns 0.0)
rdesr_0_0_0_9 nd_1_0_9000_3000 nd_1_0_9000_3000_ci 10.6412
cd_0_0_0_9 nd_1_0_9000_3000_ci 0 3.03292e-12
id_0_0_0_10 nd_1_0_1000_5000 0 pwl(0 0.0 8.770e-02ns 0.0  1.377e-01ns 8.2e-03  7.970e-01ns 8.2e-03  8.470e-01ns 0.0)
rdesr_0_0_0_10 nd_1_0_1000_5000 nd_1_0_1000_5000_ci 15.4859
cd_0_0_0_10 nd_1_0_1000_5000_ci 0 7.76345e-12
id_0_0_0_11 nd_1_0_3000_5000 0 pwl(0 0.0 4.826e-01ns 0.0  5.326e-01ns 5.0e-03  8.459e-01ns 5.0e-03  8.959e-01ns 0.0)
rdesr_0_0_0_11 nd_1_0_3000_5000 nd_1_0_3000_5000_ci 49.2461
cd_0_0_0_11 nd_1_0_3000_5000_ci 0 2.25262e-12
id_0_0_0_12 nd_1_0_5000_5000 0 pwl(0 0.0 8.819e-01ns 0.0  9.319e-01ns 1.6e-01  9.355e-01ns 1.6e-01  9.855e-01ns 0.0)
rdesr_0_0_0_12 nd_1_0_5000_5000 nd_1_0_5000_5000_ci 10.5656
cd_0_0_0_12 nd_1_0_5000_5000_ci 0 1.87586e-11
id_0_0_0_13 nd_1_0_7000_5000 0 pwl(0 0.0 8.333e-01ns 0.0  8.833e-01ns 2.0e-02  8.925e-01ns 2.0e-02  9.425e-01ns 0.0)
rdesr_0_0_0_13 nd_1_0_7000_5000 nd_1_0_7000_5000_ci 75.2223
cd_0_0_0_13 nd_1_0_7000_5000_ci 0 2.48289e-12
id_0_0_0_14 nd_1_0_9000_5000 0 pwl(0 0.0 7.760e-01ns 0.0  8.260e-01ns 2.6e-02  8.986e-01ns 2.6e-02  9.486e-01ns 0.0)
rdesr_0_0_0_14 nd_1_0_9000_5000 nd_1_0_9000_5000_ci 28.0186
cd_0_0_0_14 nd_1_0_9000_5000_ci 0 6.24263e-12
id_0_0_0_15 nd_1_0_1000_7000 0 pwl(0 0.0 2.807e-01ns 0.0  3.307e-01ns 6.2e-02  3.434e-01ns 6.2e-02  3.934e-01ns 0.0)
rdesr_0_0_0_15 nd_1_0_1000_7000 nd_1_0_1000_7000_ci 23.0885
cd_0_0_0_15 nd_1_0_1000_7000_ci 0 2.74257e-12
id_0_0_0_16 nd_1_0_3000_7000 0 pwl(0 0.0 6.748e-01ns 0.0  7.248e-01ns 3.9e-02  8.294e-01ns 3.9e-02  8.794e-01ns 0.0)
rdesr_0_0_0_16 nd_1_0_3000_7000 nd_1_0_3000_7000_ci 15.0484
cd_0_0_0_16 nd_1_0_3000_7000_ci 0 1.00927e-11
id_0_0_0_17 nd_1_0_5000_7000 0 pwl(0 0.0 1.747e-01ns 0.0  2.247e-01ns 2.3e-02  5.233e-01ns 2.3e-02  5.733e-01ns 0.0)
rdesr_0_0_0_17 nd_1_0_5000_7000 nd_1_0_5000_7000_ci 11.2435
cd_0_0_0_17 nd_1_0_5000_7000_ci 0 1.24868e-11
id_0_0_0_18 nd_1_0_7000_7000 0 pwl(0 0.0 5.665e-01ns 0.0  6.165e-01ns 1.6e-02  9.006e-01ns 1.6e-02  9.506e-01ns 0.0)
rdesr_0_0_0_18 nd_1_0_7000_7000 nd_1_0_7000_7000_ci 16.8238
cd_0_0_0_18 nd_1_0_7000_7000_ci 0 7.76378e-12
id_0_0_0_19 nd_1_0_9000_7000 0 pwl(0 0.0 7.556e-02ns 0.0  1.256e-01ns 2.0e-03  7.890e-01ns 2.0e-03  8.390e-01ns 0.0)
rdesr_0_0_0_19 nd_1_0_9000_7000 nd_1_0_9000_7000_ci 64.6314
cd_0_0_0_19 nd_1_0_9000_7000_ci 0 2.78783e-13
id_0_0_0_20 nd_1_0_1000_9000 0 pwl(0 0.0 2.149e-02ns 0.0  7.149e-02ns 5.8e-02  1.611e-01ns 5.8e-02  2.111e-01ns 0.0)
rdesr_0_0_0_20 nd_1_0_1000_9000 nd_1_0_1000_9000_ci 11.1211
cd_0_0_0_20 nd_1_0_1000_9000_ci 0 7.08279e-12
id_0_0_0_21 nd_1_0_3000_9000 0 pwl(0 0.0 7.429e-01ns 0.0  7.929e-01ns 1.4e-02  7.994e-01ns 1.4e-02  8.494e-01ns 0.0)
rdesr_0_0_0_21 nd_1_0_3000_9000 nd_1_0_3000_9000_ci 115.667
cd_0_0_0_21 nd_1_0_3000_9000_ci 0 1.44608e-12
id_0_0_0_22 nd_1_0_5000_9000 0 pwl(0 0.0 2.428e-01ns 0.0  2.928e-01ns 4.0e-03  9.398e-01ns 4.0e-03  9.898e-01ns 0.0)
rdesr_0_0_0_22 nd_1_0_5000_9000 nd_1_0_5000_9000_ci 32.0261
cd_0_0_0_22 nd_1_0_5000_9000_ci 0 1.74714e-12
id_0_0_0_23 nd_1_0_7000_9000 0 pwl(0 0.0 6.429e-01ns 0.0  6.929e-01ns 1.1e-03  8.027e-01ns 1.1e-03  8.527e-01ns 0.0)
rdesr_0_0_0_23 nd_1_0_7000_9000 nd_1_0_7000_9000_ci 525.473
cd_0_0_0_23 nd_1_0_7000_9000_ci 0 8.49051e-14
id_0_0_0_24 nd_1_0_9000_9000 0 pwl(0 0.0 1.396e-01ns 0.0  1.896e-01ns 1.6e-02  4.736e-01ns 1.6e-02  5.236e-01ns 0.0)
rdesr_0_0_0_24 nd_1_0_9000_9000 nd_1_0_9000_9000_ci 16.5323
cd_0_0_0_24 nd_1_0_9000_9000_ci 0 1.98698e-12

*-- intentional decap
cd_add_cap0 nd_1_0_3000_3000 nd0 'dcap_int_val160'
cd_add_cap1 nd_1_0_7000_3000 nd1 'dcap_int_val161'
cd_add_cap2 nd_1_0_3000_7000 nd2 'dcap_int_val162'
cd_add_cap3 nd_1_0_7000_7000 nd3 'dcap_int_val163'
rd_add0 nd0 0 'esr39'
rd_add1 nd1 0 'esr40'
rd_add2 nd2 0 'esr41'
rd_add3 nd3 0 'esr42'

.include 'moscap_esr.txt'
.include 'int_param_dcap.txt'


*-- p/g pad array
xd_pad_0_1 nd_pad_port_0_1 nd_pad_0_1 ubump_subckt
xd_pad_0_3 nd_pad_port_0_3 nd_pad_0_3 ubump_subckt
xd_pad_1_0 nd_pad_port_1_0 nd_pad_1_0 ubump_subckt
xd_pad_1_2 nd_pad_port_1_2 nd_pad_1_2 ubump_subckt
xd_pad_2_1 nd_pad_port_2_1 nd_pad_2_1 ubump_subckt
xd_pad_2_3 nd_pad_port_2_3 nd_pad_2_3 ubump_subckt
xd_pad_3_0 nd_pad_port_3_0 nd_pad_3_0 ubump_subckt
xd_pad_3_2 nd_pad_port_3_2 nd_pad_3_2 ubump_subckt
.include 'ubump.subckt'

*-- pad to via
rd_pad2via_0_1 nd_pad_0_1 nd_2_0_1000_3000  0.001
rd_pad2via_0_3 nd_pad_0_3 nd_2_0_1000_7000  0.001
rd_pad2via_1_0 nd_pad_1_0 nd_2_0_3000_1000  0.001
rd_pad2via_1_2 nd_pad_1_2 nd_2_0_3000_5000  0.001
rd_pad2via_2_1 nd_pad_2_1 nd_2_0_5000_3000  0.001
rd_pad2via_2_3 nd_pad_2_3 nd_2_0_5000_7000  0.001
rd_pad2via_3_0 nd_pad_3_0 nd_2_0_7000_1000  0.001
rd_pad2via_3_2 nd_pad_3_2 nd_2_0_7000_5000  0.001

.ends chiplet7
